US05677297
118 g of tert-butyl dimethylphosphonoacetate were dissolved in 875 ml of dried dimethylformamide under a nitrogen atmosphere. 58.9 g of potassium tert-butoxide were added to the solution while cooling in ice. The reaction mixture was subsequently heated to 60° C. for a short time and then allowed to cool to room temperature. A solution of 104.9 g of phenethyl bromide in 110 ml of dimethylformamide was added dropwise to the reaction mixture. The reaction mixture was then heated at 60° C. for 2 hours. For working up, the dimethylformamide was substantially evaporated off under reduced pressure, and the remaining residue was dissolved in methyl tert-butyl ether. The solution was acidified with aqueous potassium bisulfate solution. The organic phase was then separated, washed with water, dried over sodium sulfate and evaporated under reduced pressure. The resulting crude product was purified by flash chromatography on 3 kg of silica gel using dichloromethane/methyl tert-butyl ether (4:1) as eluent. 105.1 g of pure tert-butyl 2-(dimethylphosphono)-4-phenyl-n-butyrate were obtained as an oily product.

reactant | tert-butyl dimethylphosphonoacetate | 118 g | COP(=O)(OC)CC(=O)OC(C)(C)C | C8H17O5P
reactant | potassium tert-butoxide | 58.9 g | CC(C)([O-])C.[K+]
reactant | phenethyl bromide | 104.9 g | C(CC1=CC=CC=C1)Br | C8H9Br
solvent | dimethylformamide | 875 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 110 ml | CN(C=O)C | C3H7NO
product | tert-butyl 2-(dimethylphosphono)-4-phenyl-n-butyrate | 105.1 g | COP(=O)(OC)C(C(=O)OC(C)(C)C)CCC1=CC=CC=C1 | C16H25O5P
